US05863949
[Carboxymethyl(4-methoxybenzenesulfonyl)amino]acetic acid (0.5 grams, 1.65 mmol) in acetic anhydride (15 mL) was dissolved in acetic anhydride by gentle warming. The resulting solution was stirred at room temperature overnight. The acetic anhydride was removed by evaporation under vacuum; the residue was dissolved in methylene chloride and morpholine (0.16 mL, 1.82 mmol) was added. The mixture was stirred overnight at room temperature and then concentrated under vacuum. The residue was dissolved in ethyl acetate, washed with 1N hydrochloric acid solution, water and brine, dried over magnesium sulfate and concentrated to afford [(4-methoxybenzenesulfonyl)(2-morpholin-4-yl-2-oxoethyl)amino]acetic acid as an oil, 0.33 grams (54%).

reactant | [Carboxymethyl(4-methoxybenzenesulfonyl)amino]acetic acid | 1.65 mmol, 0.5 grams | C(=O)(O)CN(S(=O)(=O)C1=CC=C(C=C1)OC)CC(=O)O | C11H13NO7S
reactant | morpholine | 1.82 mmol, 0.16 mL | N1CCOCC1 | C4H9NO
solvent | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
product | [(4-methoxybenzenesulfonyl)(2-morpholin-4-yl-2-oxoethyl)amino]acetic acid | COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N1CCOCC1)CC(=O)O | C15H20N2O7S
